US07781428B2
To a solution of methyl 4-oxochroman-7-carboxylate (500 mg, 2.4 mmol) in methanol (5 mL) was added cyclopent-1-enecarbaldehyde (465 mg, 4.8 mmol) and pyrrolidine (0.40 mL, 4.8 mmol). The solution was stirred for one hour at ambient temperature. The resulting brown precipitate was collected by vacuum filtration and dried to give methyl 3-(cyclopentenylmethylene)-4-oxochroman-7-carboxylate (444 mg, 64% yield). LC/MS on 4.6×50 mm C-18 column, tR=6.49 minutes (10 to 90% acetonitrile/water over 8 minutes at 2 mL/minute with detection 254 nm, at 50° C.); ES-MS m/z 285 (M+H). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.88-1.99 (m, 2H), 2.43 (d, J=13.16 Hz, 2H), 2.63 (t, J=6.98 Hz, 2H), 3.85 (s, 3H), 5.36 (s, 2H), 6.45 (br. s., 1H), 7.37 (s, 1H), 7.49 (d, J=1.34 Hz, 1H), 7.60 (dd, J=8.06, 1.61 Hz, 1H), 7.93 (d, J=8.32 Hz, 1H).

reactant | methyl 4-oxochroman-7-carboxylate | 2.4 mmol, 500 mg | O=C1CCOC2=CC(=CC=C12)C(=O)OC | C11H10O4
reactant | cyclopent-1-enecarbaldehyde | 4.8 mmol, 465 mg | C1(=CCCC1)C=O | C6H8O
reactant | pyrrolidine | 4.8 mmol, 0.40 mL | N1CCCC1 | C4H9N
solvent | methanol | 5 mL | CO | CH4O
product | methyl 3-(cyclopentenylmethylene)-4-oxochroman-7-carboxylate | 444 mg, 64% yield | C1(=CCCC1)C=C1COC2=CC(=CC=C2C1=O)C(=O)OC | C17H16O4
